US07300933B2
2-[5-(3-Thienyl)-2-pyrazinyl]-(1S,4S)-5-tert-butoxycarbonyl-2,5-diazabicyclo-[2.2.1]-heptane (Intermediate Compound)
A mixture of 2-[5-bromo-6-chloro-2-pyrazinyl]-(1S,4S)-5-tert-butoxycarbonyl-2,5-diazabicyclo-[2.2.1]-heptane (4.0 g, 10.3 mmol), 3-thiophene boronic acid, aqueous potassium carbonate (15.4 ml, 2 M), 1,3-propandiol (2.34 g, 30.8 mmol), palladacycle (96 mg, 0.10 mmol), tri-tert-butylphosphine (83 mg, 0.41 mmol), palladium acetate (46 mg, 0.20 mmol) and dioxane (40 ml) was stirred at reflux for 5 days. Aqueous sodium hydroxide (50 ml, 1 M) was added and the mixture was extracted with ethyl acetate (2×30 ml). Chromatography on silica gel with ethyl acetate and petroleum (1:1) gave the title compound as an oil. Yield 1.46 g (41%). This single step also includes 6-dechlorination.

reactant | 2-[5-bromo-6-chloro-2-pyrazinyl]-(1S,4S)-5-tert-butoxycarbonyl-2,5-diazabicyclo-[2.2.1]-heptane | 10.3 mmol, 4.0 g | BrC=1N=CC(=NC1Cl)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C14H18BrClN4O2
reactant | 3-thiophene boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 2 M, 15.4 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-propandiol | 30.8 mmol, 2.34 g | C(CCO)O | C3H8O2
reactant | tri-tert-butylphosphine | 0.41 mmol, 83 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium hydroxide | 1 M, 50 ml | [OH-].[Na+]
catalyst | palladium acetate | 0.20 mmol, 46 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-[5-(3-Thienyl)-2-pyrazinyl]-(1S,4S)-5-tert-butoxycarbonyl-2,5-diazabicyclo-[2.2.1]-heptane | S1C=C(C=C1)C=1N=CC(=NC1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C18H22N4O2S
